US05342604
EXAMPLE 14. PREPARATION OF 2-({[BIS(CARBOXYMETHYL)]AMINO}METHYL)-4-(ACETAMIDO) PHENOL.
Deionized water (35.3 g), 35.3 g of 98% iminodiacetic acid (0.25 mole), and 29.9 g of 50% aqueous sodium hydroxide solution were weighed into a round-bottom reaction flask equipped with a water-cooled reflux condenser, mechanical stirrer, thermometer with a temperature controller, and an addition funnel. The mix was heated, with stirring, to a temperature of 55° C. Aqueous 37% formaldehyde solution (21.5 g) was placed in the addition funnel and added to the reaction flask over a 15 minute period. The reaction mixture was heated at 55° C. for approximately 45 minutes, cooled and transferred to an addition funnel. To a round-bottom flask equipped as above was added 38.7 g (0.25 mole) of 98% 4-acetamidophenol, 35.3 g of deionized water, and 12.2 g of 50% aqueous sodium hydroxide solution. The mix was heated, with stirring, to a temperature of approximately 65° C., and the formaldehyde-iminodiacetic acid adduct solution added over a 30 minute period. The reaction mixture was heated at 65° C. for an additional twelve hours and cooled. Concentrated hydrochloric acid (55.5 g) was added and the reaction mixture stirred for one hour. The solution was allowed to stand for several weeks and then the crystalline precipitate filtered, washed with deionized water and dried in a vacuum oven at 65° C. for several hours. Approximately 17.4 g. of solids were recovered. The structure was confirmed by proton NMR. (See Table I.)

reactant | iminodiacetic acid | 0.25 mole, 35.3 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | 29.9 g | [OH-].[Na+]
reactant | formaldehyde | 21.5 g | C=O | CH2O
reactant | 4-acetamidophenol | 0.25 mole, 38.7 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium hydroxide | 12.2 g | [OH-].[Na+]
reactant | formaldehyde iminodiacetic acid | C=O.N(CC(=O)O)CC(=O)O
reactant | hydrochloric acid | 55.5 g | Cl | ClH
solvent | water | 35.3 g | O | H2O
solvent | water | 35.3 g | O | H2O
product | 2-({[BIS(CARBOXYMETHYL)]AMINO}METHYL)-4-(ACETAMIDO) PHENOL | C(=O)(O)CN(CC(=O)O)CC1=C(C=CC(=C1)NC(C)=O)O | C13H16N2O6
